US07786132B2
(i) {2-[(Cyano-dimethyl-methyl)-amino]-ethyl}-carbamic acid tert-butyl ester
(2-Aminoethyl)carbamic acid tert-butyl ester (25.07 g, 156.5 mmol) was dissolved in EtOH (500 mL), treated with acetone (13.75 mL, 187 mmol), and the stirred solution was cooled in an ice bath. After stirring for 30 min, TMS-CN (62 mL, 465 mmol; CAUTION—toxic) was added dropwise over 1 h. The solution was stirred for 16 h, allowing to warm gradually to room temperature. The solution was concentrated in vacuo [caution: HCN gas evolved: a dry pump venting to the back of the fume hood was used]resulting in a pale yellow solid. This was dissolved in EtOAc (100 mL) and concentrated to a viscous oil. Hexane (500 mL) was added rapidly and the resulting mixture was swirled vigorously until a thick white crystalline precipitate formed. The mixture was allowed to stand for 30 min, and the crystallized product (30.0 g) was collected by filtration, washing with a small amount of hexane to give a white crystalline solid. The filtrate was concentrated in vacuo to give a viscous gum (5 g). This was quickly purified by flash chromatography eluting with EtOAc [N.B. the product is somewhat unstable to silica gel and decomposes if allowed to stay on the column for a long time]resulting in an additional 1.7 g of product, which was combined with the recrystallized material. Total yield=31.7 g, 89%. 1H NMR: δ (d6-DMSO, 400 MHz) 6.64 (1 H, t), 2.83 (2 H, m), 2.60 (1 H, t), 2.41 (2 H, m), 1.21 (9 H, s), 1.17 (6 H, s).

reactant | (2-Aminoethyl)carbamic acid tert-butyl ester | 156.5 mmol, 25.07 g | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
reactant | acetone | 187 mmol, 13.75 mL | CC(=O)C | C3H6O
reactant | TMS-CN | 465 mmol, 62 mL | [Si](C)(C)(C)C#N | C4H9NSi
solvent | EtOH | 500 mL | CCO | C2H6O
product | {2-[(Cyano-dimethyl-methyl)-amino]-ethyl}-carbamic acid tert-butyl ester | 5 g | C(C)(C)(C)OC(NCCNC(C)(C)C#N)=O | C11H21N3O2
